US07981888B2
methyl 4-bromo-3-formyl-1H-indole-2-carboxylate
To a solution of methyl 4-bromo-1H-indole-2-carboxylate (4.09 g) in dichloromethane (60 mL) was added a mixture of POCl3 (3.7 g) and N,N-dimethylformamide (1.76 g). The mixture was stirred at reflux overnight. The mixture was diluted with ethyl acetate (300 mL) and 2M sodium acetate solution in water (200 mL). The mixture was stirred thoroughly for 1 hour. The aqueous layer was extracted with ethyl acetate. The combined extracts were washed with water (×3), brine and dried over Na2SO4. After filtration, concentration of the mixture gave the title compound, which was used in next step without purification.

reactant | methyl 4-bromo-1H-indole-2-carboxylate | 4.09 g | BrC1=C2C=C(NC2=CC=C1)C(=O)OC | C10H8BrNO2
reactant | POCl3 | 3.7 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 1.76 g | CN(C=O)C | C3H7NO
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium acetate | 2M | C(C)(=O)[O-].[Na+]
solvent | water | 200 mL | O | H2O
product | methyl 4-bromo-3-formyl-1H-indole-2-carboxylate | BrC1=C2C(=C(NC2=CC=C1)C(=O)OC)C=O | C11H8BrNO3
